US09314468B2
Preparation of N-((1H-indol-7-yl)methyl)-N-methyl-5,6,7,8-tetrahydroquinolin-8-amine (C)
A solution of indole-7-carboxaldehyde (0.48 g, 3.36 mmol) in 1,2-dichloroethane (10 mL) was treated with N-methyl-5,6,7,8-tetrahydroquinolin-8-amine, 5, (0.60 g, 3.70 mmol), sodium triacetoxyborohydride (1.07 g, 5.05 mmol) and a catalytic amount of acetic acid (2 drops). The resulting mixture was warmed to 65° C. and stirred for 2 h. The reaction mixture was cooled to room temperature and a saturated aqueous solution of sodium bicarbonate was added. The product was extracted with dichloromethane. The combined organic layers were dried over potassium carbonate, filtered and concentrated in vacuo. The product was purified by silica gel chromatography (0-5% methanol/CH2Cl2) to afford 0.75 g (76% yield) of the desired product: 1H NMR (400 MHz, CDCl3) δ 12.69 (bs, 1H), 8.61 (d, J=4.4 Hz, 1H), 7.85-7.81 (m, 1H), 7.68-7.65 (m, 1H), 7.59 (d, J=7.2 Hz, 1H), 7.44-7.38 (m, 2H), 7.12 (dd, J=4.4, 7.2 Hz, 1H), 7.03-6.96 (m, 2H), 6.55 (t, J=2.0 Hz, 1H), 4.22-4.17 (m, 1H), 4.00 (d, J=13.4 Hz, 1H), 3.84 (t, J=6.8 Hz, 1H), 3.73 (d, J=13.4 Hz, 1H), 3.42 (t, J=6.8 Hz, 1H), 2.92-2.72 (m, 2H), 2.28 (s, 3H), 2.14-2.04 (m, 1H), 2.00-1.88 (m, 1H), 1.85-1.70 (m, 1H); ESI+ MS: m/z (rel intensity) 292.1 (90, [M+H]+).

reactant | indole-7-carboxaldehyde | 3.36 mmol, 0.48 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | N-methyl-5,6,7,8-tetrahydroquinolin-8-amine | CNC1CCCC=2C=CC=NC12 | C10H14N2
reactant | sodium triacetoxyborohydride | 3.70 mmol, 0.60 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | N-((1H-indol-7-yl)methyl)-N-methyl-5,6,7,8-tetrahydroquinolin-8-amine | 0.75 g, 76% yield | N1C=CC2=CC=CC(=C12)CN(C1CCCC=2C=CC=NC12)C | C19H21N3
